US09023840B2
Step 8: 4-{3-(cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-isopropylbenzamide
A mixture of 4-(1H-pyrazol-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine (0.811 g, 2.58 mmol), 4-[3-(cyanomethylene)azetidin-1-yl]-N-isopropylbenzamide (0.625 g, 2.45 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (190 μL, 1.3 mmol) in acetonitrile (8 mL, 200 mmol) was heated at 50° C. for 1 hour. After cooling, the solvent was removed under reduced pressure. The residue was diluted with dichloromethylene, neutralized with 0.5 N HCl aqueous solution to about pH 7. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure to afford the desired product (1.40 g, 84.3%), which was directly used in the next step reaction without further purification. LCMS (M+H)+: m/z=570.3.

reactant | 4-(1H-pyrazol-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | 2.58 mmol, 0.811 g | N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C16H22N4OSi
reactant | 4-[3-(cyanomethylene)azetidin-1-yl]-N-isopropylbenzamide | 2.45 mmol, 0.625 g | C(#N)C=C1CN(C1)C1=CC=C(C(=O)NC(C)C)C=C1 | C15H17N3O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.3 mmol, 190 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | acetonitrile | 200 mmol, 8 mL | C(C)#N | C2H3N
product | 4-{3-(cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-isopropylbenzamide | 1.40 g, 84.3% | C(#N)CC1(CN(C1)C1=CC=C(C(=O)NC(C)C)C=C1)N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C31H39N7O2Si
